US05885986
1.0 g (0.00243 mol) of 3-(5-dipropylaminomethyl-oxazol-2-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one in 50 ml of ethyl acetate was treated with 0.56 ml (0.00267 mol) of 4.78N ethanolic hydrochloric acid. After stirring at 0° for 1 hr. the white suspension was suction filtered. There was obtained 0.96 g (88%) of 3-(5-dipropylaminomethyl-oxazol-2-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one hydrochloride (1:1) as white crystals; m.p. 246°-248°.

reactant | 3-(5-dipropylaminomethyl-oxazol-2-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 0.00243 mol, 1.0 g | C(CC)N(CCC)CC1=CN=C(O1)C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | C22H26FN5O2
reactant | hydrochloric acid | 0.00267 mol, 4.78N, 0.56 ml | Cl | ClH
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 3-(5-dipropylaminomethyl-oxazol-2-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one hydrochloride | 0.96 g, 88% | Cl.C(CC)N(CCC)CC1=CN=C(O1)C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | InChI=1S/C22H26FN5O2.ClH/c1-4-8-27(9-5-2)12-16-11-24-21(30-16)20-19-13-26(3)22(29)17-10-15(23)6-7-18(17)28(19)14-25-20;/h6-7,10-11,14H,4-5,8-9,12-13H2,1-3H3;1H
